US09085555B2
(1H-Indol-6-yl)-acetic acid tert-butyl ester
To a solution of 6-bromoindole (2 g, 10.2 mmol) in THF (20 mL) under nitrogen atmosphere was added KH (30% in mineral oil de-greased with pentane, 1.5 g, 11.22 mmol) and the mixture was stirred at RT for 30 min before addition of [P(t-Bu)3PdBr]2 (40 mg, 0.051 mmol) diluted in THF (20 mL). The resulting mixture was added to a solution of 2-tert-butoxy-2-oxoethylzinc chloride (0.5 M in Et2O, 22.4 mL, 11.2 mmol) stirred under nitrogen atmosphere and the mixture was further stirred at RT for 24 h. The reaction mixture was diluted with EtOAc, and washed with a saturated aqueous solution of NaHCO3, then with water. The organic layer was dried over Na2SO4, filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane to c-hexane/EtOAc 94:6 to c-hexane/EtOAc 8:2) to give the desired material. TLC, Rf (c-hexane/EtOAc 4:1)=0.3; MS (UPLC): 232.2 [M+H]+, 176.1 [MH−tBu]+, 249.2 [M+NH4]+, 463.4 [2M+H]+, 273.3 [M+HCOO]−.

reactant | 6-bromoindole | 10.2 mmol, 2 g | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | pentane | CCCCC | C5H12
reactant | 2-tert-butoxy-2-oxoethylzinc chloride | 11.2 mmol, 0.5 M, 22.4 mL | [Cl-].C(C)(C)(C)OC(C[Zn+])=O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (1H-Indol-6-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CC1=CC=C2C=CNC2=C1)=O | C14H17NO2
